US05508293
5-Benzamido-N-cyano-N'-[2-(2-chlorophenyl)ethyl]-3-pyridinecarboximidamide
To a solution of 5-amino-N-cyano-N'-[2-(2-chlorophenyl)ethyl]-3-pyridinecarboximidamide (100 mg, 0.33 mmol) in DMF (3 ml) were added triethylamine (101 mg, 1 mmol) and benzoyl chloride (94 mg, 0.67 mmol), and the mixture was stirred at room temperature for 3 hours. After the reaction was completed, the reaction mixture was neutralized by adding ice and a saturated aqueous sodium carbonate solution and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (Wako Gel C-200, 30 g; eluted with chloroform:methanol=200:1) to give the title compound (38 mg, 0.09 mmol, yield 29%).

reactant | 5-amino-N-cyano-N'-[2-(2-chlorophenyl)ethyl]-3-pyridinecarboximidamide | 0.33 mmol, 100 mg | NC=1C=C(C=NC1)C(NC#N)=NCCC1=C(C=CC=C1)Cl | C15H14ClN5
reactant | triethylamine | 1 mmol, 101 mg | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.67 mmol, 94 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 5-Benzamido-N-cyano-N'-[2-(2-chlorophenyl)ethyl]-3-pyridinecarboximidamide | 0.09 mmol, 38 mg, yield 29% | C(C1=CC=CC=C1)(=O)NC=1C=C(C=NC1)C(NC#N)=NCCC1=C(C=CC=C1)Cl | C22H18ClN5O
